US09428499B2
A solution of ethyl 2,2-difluoro-2-(3-nitrophenyl)acetate (0.701 g, 2.86 mmol) in Methanolic ammonia (7M, 20.0 ml) was taken in sealed tube. Resulting mixture was heated at 75° C. for 3 hrs. The reaction mixture was concentrated under vacuum and cold water was added to obtain the precipitate. Solid was filtered to obtain 2,2-difluoro-2-(3-nitrophenyl)acetamide (0.515 g).

reactant | ethyl 2,2-difluoro-2-(3-nitrophenyl)acetate | 2.86 mmol, 0.701 g | FC(C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])F | C10H9F2NO4
reactant | ammonia | 7M, 20.0 ml | N | H3N
product | 2,2-difluoro-2-(3-nitrophenyl)acetamide | 0.515 g | FC(C(=O)N)(C1=CC(=CC=C1)[N+](=O)[O-])F | C8H6F2N2O3
